US07015218B1
N-(3-Cyano-4-(4-hydroxypiperidin-1-yl)phenyl)-1-(4-fluorophenyl)-N,5-dimethylpyrazole-4-carboxamide
N-[3-Cyano-4-(4-tert-butyldimethylsilyloxypiperidin-1-yl)phenyl]-1-(4-fluorophenyl)-5-methylpyrazole-4-carboxamide (1.5 g) and sodium hydride (60% content, 0.2 g) were reacted in dimethylformamide (10 ml) under ice-cooling for 1 h. Dimethylformamide solution (1 ml) containing methyl iodide (0.6 g) was added and the mixture was stirred under ice-cooling for 1 h and, after allowed to warm to room temperature, stirred for another 1 h. The reaction mixture was added into water and extracted with ethyl acetate. The organic layer was washed with dilute hydrochloric acid and saturated brine, and dried over anhydrous magnesium sulfate, after which the solvent was evaporated under reduced pressure. Tetrabutylammonium fluoride (1.4 g), tetrahydrofuran (10 ml) and acetonitrile (10 ml) were added to the residue, and the mixture was stirred at 80° C. for 2 h. The reaction mixture was added into water and extracted with ethyl acetate. The organic layer was washed with saturated brine and dried over anhydrous magnesium sulfate, after which the solvent was evaporated under reduced pressure. A mixed solvent of ethyl acetate-n-hexane was added to the residue to allow crystallization. The crystals were recrystallized from a mixed solvent of ethyl acetate-ethanol to give the title compound (0.8 g), melting point: 211–212° C.

reactant | N-[3-Cyano-4-(4-tert-butyldimethylsilyloxypiperidin-1-yl)phenyl]-1-(4-fluorophenyl)-5-methylpyrazole-4-carboxamide | 1.5 g | C(#N)C=1C=C(C=CC1N1CCC(CC1)O[Si](C)(C)C(C)(C)C)NC(=O)C=1C=NN(C1C)C1=CC=C(C=C1)F | C29H36FN5O2Si
reactant | sodium hydride | 0.2 g | [H-].[Na+]
reactant | methyl iodide | 0.6 g | CI | CH3I
reactant | water | O | H2O
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | Dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
product | N-(3-Cyano-4-(4-hydroxypiperidin-1-yl)phenyl)-1-(4-fluorophenyl)-N,5-dimethylpyrazole-4-carboxamide | 0.8 g | C(#N)C=1C=C(C=CC1N1CCC(CC1)O)N(C(=O)C=1C=NN(C1C)C1=CC=C(C=C1)F)C | C24H24FN5O2
